US07230022B2
Part A: Preparation of hexa-3,5-dien-1-yl 4-methylbenzenesulfonate
A solution of ethyl hexa-3,5-dienoate (4.0 g, 28.6 mmol) in dry tetrahydrofuran (200 mL) was treated with a solution of lithium aluminum hydride in tetrahydrofuran (1.0 M, 28.6 mL, 28.6 mmol). The mixture was stirred at room temperature for 2 hours, and then quenched with water. The mixture was acidified with 1.0 N aqueous hydrochloric acid and extracted three times with ethyl acetate. The organic layers were combined, dried over sodium sulfate and concentrated to a yellow oil. 1H NMR (300 MHz, CDCl3) δ6.4-6.1 (m, 2H), 5.67 (m, 1H), 5.13 (d, J=17 Hz, 1H), 5.00 (d, J=11 Hz, 1H), 3.66 (t, J=6.6 Hz, 2H), 2.34 (q, J=6.6 Hz, 2H), 2.13 (broad s, 1H). The oil was dissolved in dichloromethane, cooled to 0° C. and treated with pyridine (10 mL) and p-toluenesulfonyl chloride (5.72 g, 30 mmol). The mixture was stirred for one hour, then warmed to room temperature and stirred for 3 hours. The mixture was then concentrated, and the residue was dissolved in ethyl acetate, washed sequentially with water, 1.0 N aqueous hydrochloric acid, 1.0 N aqueous sodium hydroxide, and saturated aqueous sodium chloride, then was dried over magnesium sulfate and concentrated to provide a yellow oil. This yellow oil was purified by flash column chromatography, eluting with 10% ethyl acetate/hexane, to give a colorless oil (3.84 g, 53%). 1H NMR (300 MHz, CDCl3) δ7.78 (d, J=8 Hz, 2H), 7.33 (d, J=8 Hz, 2H), 6.22 (td, J=17, 10 Hz, 1H), 6.04 (dd, J=11, 10 Hz, 1H), 5.10 (d, J=17 Hz, 1H), 5.02 (d, J=10 Hz, 1H), 4.05 (t, J=7 Hz, 2H), 2.44 (s+m, 5H).

reactant | ethyl hexa-3,5-dienoate | 28.6 mmol, 4.0 g | C(CC=CC=C)(=O)OCC | C8H12O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 30 mmol, 5.72 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 28.6 mmol, 1.0 M, 28.6 mL | O1CCCC1 | C4H8O
product | hexa-3,5-dien-1-yl 4-methylbenzenesulfonate | 3.84 g, 53% | CC1=CC=C(C=C1)S(=O)(=O)OCCC=CC=C | C13H16O3S
